US07687646B2
To a suspension of the olopatadine (free base) produced in step b. (42.40 g, 0.123 mol; HPLC assay: 97.71%) in acetone (601 g) was added concentrated hydrochloric acid (15.39 g, 0.135 mol; assay: 32%). The white suspension was stirred 15 hours at 20-25° C. After the filtration, the white solid washed with acetone (72.5 g) and dried under vacuum for 14 hours at 60° C. to give an off white powdery olopatadine hydrochloride (yield: 44.35 g, 0.119 mol; assay: 100% (HPLC), HPLC purity: 99.96%, Z/E-Isomers: 99.97/0.03, yield: 96.7%, polymorphic form A). Overall yield for olopatadine hydrochloride based on Olo-IM2: 49.7%. Calculated volume yield for the synthesis of Olopatadine-HCl: 5.0%

reactant | olopatadine | CN(C)CC/C=C\1/C=2C=CC=CC2COC3=C1C=C(C=C3)CC(=O)O | C21H23NO3
reactant | hydrochloric acid | 0.135 mol, 15.39 g | Cl | ClH
solvent | acetone | 601 g | CC(=O)C | C3H6O
product | olopatadine hydrochloride | yield: 96.7% | CN(C)CC/C=C\1/C=2C=CC=CC2COC3=C1C=C(C=C3)CC(=O)O.Cl | InChI=1S/C21H23NO3.ClH/c1-22(2)11-5-8-18-17-7-4-3-6-16(17)14-25-20-10-9-15(12-19(18)20)13-21(23)24;/h3-4,6-10,12H,5,11,13-14H2,1-2H3,(H,23,24);1H/b18-8-;
